US08003658B2
Preparation of N-({4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-methoxy-quinazolin-6-ylcarbamoyl}-methyl)-acrylamide
170 mg of 2-amino-N-{4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-methoxy-quinazolin-6-yl}-acetamide as a starting material was dissolved in 5 ml of THF, and cooled to 0° C. The solution was reacted with 0.04 ml of acrylic acid, 0.06 ml of pyridine and 134 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride at 0° C. for 1 hour and at room temperature for 5 hours. The reacted solution was extracted with chloroform after adding saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and distilled under a reduced pressure, and the resulting residue was subjected to column chromatography (eluent-ethylacetate methanol=10:1) to obtain the title compound (51 mg, 27%).

reactant | 2-amino-N-{4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-methoxy-quinazolin-6-yl}-acetamide | 170 mg | NCC(=O)NC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C24H21ClFN5O3
reactant | acrylic acid | 0.04 ml | C(C=C)(=O)O | C3H4O2
reactant | pyridine | 0.06 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 134 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-({4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-7-methoxy-quinazolin-6-ylcarbamoyl}-methyl)-acrylamide | 51 mg, 27% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC(=C(C=C12)NC(=O)CNC(C=C)=O)OC | C27H23ClFN5O4
